US05639756
STEP A: 2-(2-Hydroxyethylamino)-1-pivaloylmethyl-benzimidazole hydrobromide
Heat at reflux for 3 hours a mixture of 2-(2-hydroxyethylamino)benzimidazole (1.77 g, 10 mmol) and bromopinacoline (1.35 g, 10 mmol) in 50 ml of propanol. Subsequently maintain at room temperature. The next day, the title compound is collected by filtration and washed with acetone and then with ether.

reactant | 2-(2-hydroxyethylamino)benzimidazole | 10 mmol, 1.77 g | OCCNC=1NC2=C(N1)C=CC=C2 | C9H11N3O
reactant | bromopinacoline | 10 mmol, 1.35 g | CC(C)(C)C(=O)CBr | C6H11BrO
solvent | propanol | 50 ml | C(CC)O | C3H8O
product | 2-(2-Hydroxyethylamino)-1-pivaloylmethyl-benzimidazole hydrobromide | Br.OCCNC1=NC2=C(N1CC(C(C)(C)C)=O)C=CC=C2 | InChI=1S/C15H21N3O2.BrH/c1-15(2,3)13(20)10-18-12-7-5-4-6-11(12)17-14(18)16-8-9-19;/h4-7,19H,8-10H2,1-3H3,(H,16,17);1H
